US08877760B2
Preparation of cis-3-(1H-indazol-5-ylamino)-5-(2-aminocyclohexylamino)pyrazine-2-carboxamide
To 3-(1H-indazol-5-ylamino)-5-chloropyrazine-2-carboxamide (˜100 mg) in ˜3 mL NMP was added 6 equivalents of DIEA and 20 equivalents of racemic cis-1,2-cyclohexanediamine. The mixture was heated at 150° C. in a sealed tube overnight. The reaction mixture was cooled, acidified with TFA, diluted with water and prepped via rpHPLC to give the title compound. MS found for C18H22N8O as (M+H)+ 367.2.

reactant | 3-(1H-indazol-5-ylamino)-5-chloropyrazine-2-carboxamide | ˜100 mg | N1N=CC2=CC(=CC=C12)NC=1C(=NC=C(N1)Cl)C(=O)N | C12H9ClN6O
reactant | DIEA | 6 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | racemic cis-1,2-cyclohexanediamine | 20 equivalents | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | NMP | ˜3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | cis-3-(1H-indazol-5-ylamino)-5-(2-aminocyclohexylamino)pyrazine-2-carboxamide | N1N=CC2=CC(=CC=C12)NC=1C(=NC=C(N1)N[C@H]1[C@H](CCCC1)N)C(=O)N | C18H22N8O
